US06867198B2
3-(6-Fluoro-1H-indol-3-yl)-4-(4-hydroxylmethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)pyrrole-2,5-dione
Beginning with 2-(6-fluoro-1H-indol-3-yl)acetamide and (4-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | 2-(6-fluoro-1H-indol-3-yl)acetamide | FC1=CC=C2C(=CNC2=C1)CC(=O)N | C10H9FN2O
reactant | (4-hydroxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2C(CCC3=CC=CC1=C23)CO)=O | C15H15NO4
product | 3-(6-Fluoro-1H-indol-3-yl)-4-(4-hydroxylmethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)pyrrole-2,5-dione | FC1=CC=C2C(=CNC2=C1)C=1C(NC(C1C1=CN2C(CCC3=CC=CC1=C23)CO)=O)=O | C24H18FN3O3
